US04833259
16.3 g of <R>-pantolactone (0.125 mol) and 28 g of 4-methoxycinnamic acid chloride (about 0.14 mol) are placed in 170 ml of CH2Cl2 while gassing with argon in a 350 ml 4-necked sulphonation flask provided with a thermometer, a reflux condenser, a magnetic stirrer as well as a 20 ml dropping funnel. A solution of 11 g (0.139 mol) of pyridine in 30 ml of CH2Cl2 is now added dropwise within 30 minutes, whereby the temperature rises slowly. The reaction mixture is finally heated to reflux temperature for 3 hours. The reaction mixture is washed with 150 ml of water, 2× with 40 ml of 5% HCl, 2× with 40 ml of 5% NaHCO3 and 1× with 100 ml of water. The organic phase is separated and dried over Na2SO4. The solvent is removed on a rotary evaporator. The thus-obtained crude product is recrystallized from 100 ml of ethyl acetate/hexane (60:100). There are obtained 33.6 g of white crystals of the <R>-pantolactone ester of p-methoxycinnamic acid (yield 92.6%).

reactant | pantolactone | 0.125 mol | CC1(COC(=O)C1O)C | C6H10O3
reactant | 4-methoxycinnamic acid chloride | about 0.14 mol, 28 g | COC1=CC=C(C=CC(=O)Cl)C=C1 | C10H9ClO2
reactant | pyridine | 0.139 mol, 11 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 170 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | p-methoxycinnamic acid | yield 92.6% | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
